US07087626B2
4-(2-Pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-7-(pyridin-4-ylmethoxy)-quinoline
4-(2-Pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-ol (0.100 g, 0.305 mmol), triphenylphosphine (0.080 g, 0.305 mmol), and 4-pyridylcarbinol (0.033 g, 0.305 mmol) are combined in toluene (1.0 mL) and treated with diisopropylazodicarboxylate (0.062 g, 0.305 mmol). The resulting mixture is heated at 75° C. for 18 hours. The mixture is diluted with tetrahydrofuran and heated at 75° C. for 24 h. The mixture is placed on a 10 g SCX resin column which is washed sequentially with dichloromethane (120 mL), methanol (60 mL), and 4:1 dichloromethane/2 N ammonia in methanol (125 mL). The latter fraction is concentrated in vacuo and the residue chromatographed on SiO2 (9:1 ethyl acetate:2N ammonia in methanol) to yield the desired product as a tan solid, 0.035 g (27%).

reactant | 4-(2-Pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-ol | 0.305 mmol, 0.100 g | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C2=CC=NC1=CC(=CC=C21)O | C20H16N4O
reactant | triphenylphosphine | 0.305 mmol, 0.080 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-pyridylcarbinol | 0.305 mmol, 0.033 g | N1=CC=C(C=C1)CO | C6H7NO
reactant | diisopropylazodicarboxylate | 0.305 mmol, 0.062 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 1.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(2-Pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-7-(pyridin-4-ylmethoxy)-quinoline | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C2=CC=NC1=CC(=CC=C21)OCC2=CC=NC=C2 | C26H21N5O
